US04592866
2-[2-(Dimethylamino)ethyl]-2,3-dihydro-4-methylnaphth[2,1-f][1,4]-oxazepine-5(4H)-thione hydrochloride [1:1]
To a solution of 15.0 g (0.05 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methylnaphth[2,1-f][1,4]-oxazepine-5(4H)-thione in 50 ml of absolute ethanol was added 10 g of a 40% aqueous solution of dimethylamine. The resulting solution was heated in a steel bomb at 100° C. for 40 hr and concentrated under reduced pressure. The residue was partitioned between 15% aqueous sodium hydroxide and chloroform. The chloroform layer was evaporated and the residue partitioned between 3N hydrochloric acid and chloroform. The aqueous layer was made alkaline with 50% sodium hydroxide and extracted with chloroform. The chloroform extract was concentrated and the residue dissolved in isopropyl alcohol. Ethereal hydrogen chloride was added. Recrystallization of the precipitate from isopropyl alcohol/water gave 3.0 g (20%) of the product, m.p. 238°-240° C.

reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methylnaphth[2,1-f][1,4]-oxazepine-5(4H)-thione | 0.05 mole, 15.0 g | ClCCC1OC2=C(C(N(C1)C)=S)C=CC1=CC=CC=C12 | C16H16ClNOS
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[2-(Dimethylamino)ethyl]-2,3-dihydro-4-methylnaphth[2,1-f][1,4]-oxazepine-5(4H)-thione hydrochloride | 3.0 g, 20% | Cl.CN(CCC1OC2=C(C(N(C1)C)=S)C=CC1=CC=CC=C12)C | InChI=1S/C18H22N2OS.ClH/c1-19(2)11-10-14-12-20(3)18(22)16-9-8-13-6-4-5-7-15(13)17(16)21-14;/h4-9,14H,10-12H2,1-3H3;1H
